US04895861
(Step 1) Preparation of N'-Hydroxy-(2-naphthalenyl)sulfonylethanimidamide
According to General Procedure A, hydroxylamine hydrochloride (2.26 g, 32.5 mmol), was added in one portion to a solution of NaOMe, freshly prepared from sodium (0.75 g, 32.5 mmol) in methanol. The resulting mixture was stirred 1 hour at room temperature, during which time a precipitate was formed. (2-Naphthalenylsulfonyl)acetonitrile (3.0 g, 13.0 mmol), was added in one portion and the resulting mixture heated to reflux a total of 24 hours. The mixture was cooled to room temperature and then to 0° C. to give a precipitate. The precipitate was collected by filtration, washed with water, and dried in vacuo to give a white crystalline solid (2.75 g, 80%) which was of sufficient purity for use in the subsequent reaction.

reactant | hydroxylamine hydrochloride | 32.5 mmol, 2.26 g | Cl.NO
reactant | NaOMe | C[O-].[Na+]
reactant | sodium | 32.5 mmol, 0.75 g | [Na] | Na
reactant | (2-Naphthalenylsulfonyl)acetonitrile | 13.0 mmol, 3.0 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)CC#N | C12H9NO2S
solvent | methanol | CO | CH4O
product | N'-Hydroxy-(2-naphthalenyl)sulfonylethanimidamide | 2.75 g, 80% | ON=C(CS(=O)(=O)C1=CC2=CC=CC=C2C=C1)N | C12H12N2O3S
